US08044173B2
(5R)-3-Methyl-5-phenyl-5,6-dihydro-2H-1,4-oxazin-2-one
(R)-2-phenylglycinol (3.00 g, 21.9 mmol, 1.0 equiv.) and ethyl pyruvate (2.67 mL, 24.1 mmol, 1.1 equiv.) were refluxed in trifluoroethanol (50 mL) over activated 4 molecular sieves (8.00 g) for 24 hours. Filtration through a short pad of CELITE® diatomaceous earth and removal of solvent from the filtrate in vacuo generated the crude product which was purified by flash column chromatography on silica, eluting with petrol and diethyl ether (7:3) to furnish the title compound as a white solid (1.70 g, 41%); mp 71.0-72.0° C. (lit 71.0-72.0° C.); v(max)(KBr) 3001 (C—H), 1734 (C═O), 1642 (C═N) cm−1; δH (250 MHz, CDCl3) 7.42-7.32 (5H, m, Ph), 4.89-4.80 (1H, m, PhCH), 4.56 (1H, dd, /4.49 Hz, T 11.55 Hz, 6β-H), 4.25 (1H, dd, J 10.97 Hz, T 11.51 Hz, 6α-H), 2.40 (3H, s, CH3); δC (62.5 MHz, CDCl3) 160.7, 155.9, 137.2, 129.4, 128.7, 127.5, 71.9, 60.1, 22.2; m/z (CL, NH3), 189 (M+, 25%), 159 (12%), 130 (24%), 104 (100%), 90 (21%), and 78 (6%); HRMS for C11H11NO2 requires 189.0787 found 189.0782. [α]D20 −2560.0 (c 1.11 CHCl3) (lit [α]D20 −237.1 (c 1.11 CHCl3)).

reactant | (R)-2-phenylglycinol | 21.9 mmol, 3.00 g, 1.0 equiv. | C1(=CC=CC=C1)[C@@H](N)CO | C8H11NO
reactant | ethyl pyruvate | 24.1 mmol, 2.67 mL, 1.1 equiv. | C(C(=O)C)(=O)OCC | C5H8O3
solvent | trifluoroethanol | 50 mL | C(C(F)(F)F)O | C2H3F3O
product | (5R)-3-Methyl-5-phenyl-5,6-dihydro-2H-1,4-oxazin-2-one | 1.70 g, 41% | CC=1C(OC[C@H](N1)C1=CC=CC=C1)=O | C11H11NO2
